US08835429B2
A flask was charged with 8-(2-chloro-6-(chloromethyl)pyrimidin-4-yl)-3-oxa-8-azabicyclo[3.2.1]octane (2.30 g, 8.39 mmol) and DMF (40 ml) was added to give a yellow solution. Potassium carbonate (2.90 g, 20.97 mmol) and dimethylamine (2.0M in THF, 4.6 ml, 9.23 mmol) were added and the reaction was allowed to stir at room temperature for 16 hours. The reaction mixture was filtered through a Buchner funnel and washed with methylene chloride and ethyl acetate. The filtrate was concentrated to provide crude product as a brown oil, which solidified upon standing (2.61 g). The crude product was added to a silica gel column and was eluted with 0-10% methanol in methylene chloride to provide 1-(6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-2-chloropyrimidin-4-yl)-N,N-dimethylmethanamine (2.01 g, 85%) as an off-white solid. HRMS; [M+H]+ Obs'd=283.1320, [M+H]+ Calc'd=283.1319.

reactant | 8-(2-chloro-6-(chloromethyl)pyrimidin-4-yl)-3-oxa-8-azabicyclo[3.2.1]octane | 8.39 mmol, 2.30 g | ClC1=NC(=CC(=N1)N1C2COCC1CC2)CCl | C11H13Cl2N3O
reactant | Potassium carbonate | 20.97 mmol, 2.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylamine | 9.23 mmol, 2.0M, 4.6 ml | CNC | C2H7N
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1-(6-(3-oxa-8-azabicyclo[3.2.1]octan-8-yl)-2-chloropyrimidin-4-yl)-N,N-dimethylmethanamine | 2.01 g, 85% | C12COCC(CC1)N2C2=CC(=NC(=N2)Cl)CN(C)C | C13H19ClN4O
